US04220761
A solution of 7-amino-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (2.0 g) and trimethylsilylacetamide (5.9 g) in dry ethyl acetate (40.0 ml) and a solution of 2-(2-formamidothiazol-4-yl)-2-propargyloxyiminoacetic acid (syn isomer, 1.6 g), dry dimethylformamide (0.5 g) and phosphoryl chloride (1.0 g) in dry ethyl acetate (52.0 ml) were treated in a similar manner to that of Example 1-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer, 2.00 g).

reactant | 7-amino-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 2.0 g | NC1[C@@H]2N(C(=C(CS2)C(CCO)SC2=NN=NN2)C(=O)O)C1=O | C11H14N6O4S2
reactant | trimethylsilylacetamide | 5.9 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-(2-formamidothiazol-4-yl)-2-propargyloxyiminoacetic acid | 1.6 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC#C | C9H7N3O4S
reactant | phosphoryl chloride | 1.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 40.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 52.0 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.5 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 2.00 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCO)SC2=NN=NN2)C(=O)O)C1=O)=NOCC#C | C20H19N9O7S3
